US09085555B2
(1-Carbamoyl-3-{[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hexane-2-carbonyl]-amino}-1H-indol-6-yl)-acetic acid
to a solution of (1-carbamoyl-3-{[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hexane-2-carbonyl]-amino}-1H-indol-6-yl)-acetic acid tert-butyl ester Example 127 (30 mg, 0.051 mmol) in CH2Cl2 (0.5 mL) was added TFA (157 μL, 2.05 mmol) and the mixture was stirred at RT for 1 h. Then concentrated and the crude residue was taken up in Et2O and filtered-off to give the desired material. MS (UPLC): 528.2/530.3 [M+H]+, 1055.6/1057.2 [2M+H]+, 483.1/485.1 [M−CONH2]−, 1053.6/1055.6 [2M−H]−; tR (HPLC conditions f): 1.75 min.

reactant | (1-carbamoyl-3-{[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hexane-2-carbonyl]-amino}-1H-indol-6-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CC1=CC=C2C(=CN(C2=C1)C(N)=O)NC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(NCC1=C(C(=CC=C1)Cl)F)=O)=O | C29H31ClFN5O5
reactant | TFA | 2.05 mmol, 157 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (1-Carbamoyl-3-{[(1R,3S,5R)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-2-aza-bicyclo[3.1.0]hexane-2-carbonyl]-amino}-1H-indol-6-yl)-acetic acid | C(N)(=O)N1C=C(C2=CC=C(C=C12)CC(=O)O)NC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(NCC1=C(C(=CC=C1)Cl)F)=O | C25H23ClFN5O5
